US04198406
(a) 5-Mercapto-1H-tetrazol-1-ylacetamide
Ethyl 5-mercapto-1H-tetrazol-5-ylacetate (15.0 g) was dissolved in ethanol (50 ml), the solution was saturated with ammonia gas then set aside for 36 hours. The precipitated mass was collected, washed with ethanol (20 ml), dried and dissolved in water (100 ml). The solution was treated with decolourising charcoal, filtered, acidified with concentrated hydrochloric acid and cooled in an ice bath. The product crystallised as needles and was collected, washed with a little water and dried in vacuo, 9.51 g., (75.0%) m.p. 214°-216° C. (d), νmax (nujol) 1695 cm-1 ; δ[(CD3)2SO], 7.72 (2H,d, J=22 Hz, --NH2), 5.02 (2H,s, --CH2 --). Found: C, 22.39; H, 2.18; N, 43.82; S, 20.16. C3H5N5OS requires: C, 22.64; H, 3.17; N, 44.00; S, 20.14%.

reactant | Ethyl 5-mercapto-1H-tetrazol-5-ylacetate | 15.0 g | SC1(N=NNN1)CC(=O)OCC | C5H10N4O2S
reactant | ammonia | N | H3N
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 5-Mercapto-1H-tetrazol-1-ylacetamide | SC1=NN=NN1CC(=O)N | C3H5N5OS
